US07744861B2
A. Synthesis of t-Boc-Glycine-Irinotecan
In a flask, 0.1 g Irinotecan (0.1704 mmoles), 0.059 g t-Boc-Glycine (0.3408 mmoles), and 0.021 g DMAP (0.1704 mmoles) were dissolved in 13 mL of anhydrous dichloromethane (DCM). To the solution was added 0.070 g DCC (0.3408 mmoles) dissolved in 2 mL of anhydrous DCM. The solution was stirred overnight at room temperature. The solid was removed through a coarse frit, and the solution was washed with 10 mL of 0.1N HCL in a separatory funnel. The organic phase was further washed with 10 mL of deionized H2O in a separatory funnel and then dried with Na2SO4. The solvent was removed using rotary evaporation and the product was further dried under vacuum. 1H NMR (DMSO): δ 0.919 (t, CH2CH3), 1.34 (s, C(CH3)3), 3.83 (m, CH2), 7.66 (d, aromatic H).

reactant | Irinotecan | 0.1704 mmoles, 0.1 g | CCC1=C2C=C(C=CC2=NC3=C1CN4C3=CC5=C(C4=O)COC(=O)[C@@]5(CC)O)OC(=O)N6CCC(CC6)N7CCCCC7 | C33H38N4O6
reactant | t-Boc-Glycine | 0.3408 mmoles, 0.059 g | CC(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | DCC | 0.3408 mmoles, 0.070 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.1704 mmoles, 0.021 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 13 mL | ClCCl | CH2Cl2
solvent | DCM | 2 mL | ClCCl | CH2Cl2
product | t-Boc-Glycine Irinotecan | CC(C)(C)OC(=O)NCC(=O)O.CCC1=C2C=C(C=CC2=NC3=C1CN4C3=CC5=C(C4=O)COC(=O)[C@@]5(CC)O)OC(=O)N6CCC(CC6)N7CCCCC7 | InChI=1S/C33H38N4O6.C7H13NO4/c1-3-22-23-16-21(43-32(40)36-14-10-20(11-15-36)35-12-6-5-7-13-35)8-9-27(23)34-29-24(22)18-37-28(29)17-26-25(30(37)38)19-42-31(39)33(26,41)4-2;1-7(2,3)12-6(11)8-4-5(9)10/h8-9,16-17,20,41H,3-7,10-15,18-19H2,1-2H3;4H2,1-3H3,(H,8,11)(H,9,10)/t33-;/m0./s1
